US08183246B2
6-{[6-(2-Ethylphenyl)-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]amino}hexanoic acid methyl ester
Add 0.50 ml of 2 M aqueous sodium carbonate solution to a mixture of 224 mg (0.50 mmol) 6-{[6-bromo-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]amino}hexanoic acid methyl ester and 18 mg (0.03 mmol) bis(triphenylphosphine)palladium(II) chloride in 11.2 ml DMSO. Next, add 187 mg (1.25 mmol) (2-ethylphenyl)boronic acid and stir the mixture for 15 h at 80° C. Filter the reaction mixture and purify directly by preparative RP-HPLC (gradient: water/acetonitrile). 69 mg (29% of theor.) of the desired product is obtained.

reactant | sodium carbonate | 2 M, 0.50 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 6-{[6-bromo-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]amino}hexanoic acid methyl ester | 0.50 mmol, 224 mg | COC(CCCCCNC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)Br)=O | C20H22BrN3O4
reactant | (2-ethylphenyl)boronic acid | 1.25 mmol, 187 mg | C(C)C1=C(C=CC=C1)B(O)O | C8H11BO2
solvent | DMSO | 11.2 ml | CS(=O)C | C2H6OS
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.03 mmol, 18 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6-{[6-(2-Ethylphenyl)-5-(4-methoxyphenyl)furo[2,3-d]pyrimidin-4-yl]amino}hexanoic acid methyl ester | COC(CCCCCNC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)C2=C(C=CC=C2)CC)=O | C28H31N3O4
